US08957080B2
Synthesis of (R)-2-(2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-(1-aminocyclopropyl)acrylonitrile
To a solution of tert-butyl N-[1-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]cyclopropyl]carbamate (27 mg, 0.04 mmol) in DCM (3 mL) was added TFA (1 mL). The solution was stirred for 5 hrs. and then concentrated. The residue was purified by prep-TLC (5% MeOH/DCM) to provide 2.68 mg (12%) of the title compound. MS (pos. ion) m/z: 539 (M+1).

reactant | tert-butyl N-[1-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]cyclopropyl]carbamate | 0.04 mmol, 27 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(C(=CC2(CC2)NC(OC(C)(C)C)=O)C#N)=O | C34H35FN8O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(2-((4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-(1-aminocyclopropyl)acrylonitrile | 2.68 mg, 12% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(=O)C(C#N)=CC2(CC2)N | C29H27FN8O2
